US07666871B2
Add 1-{2-[2-(4-bromo-phenyl)-5-methyl-oxazol-4-yl]-ethyl }-2-methylpiperidine (0.724 g, 1.99 mmol), Pd(Ph3)4 (0.101 g, 0.088 mmol), 4-pyridylboronic acid (0.367 g, 2.99 mmol), 2N Na2CO3 (5 mL), and 1,4-dioxane (1.5 mL) to a microwave vessel. Subject the reaction mixture to microwave irradiation at 30 W, 90° C. for 30-45 minutes. Concentrate and purify on silica gel eluting with 10% 2N NH3 in methanol/dichloromethane to give 4-(4-{5-methyl-4-[2-(2-methyl-piperidin-1 -yl)-ethyl]-oxazol-2-yl}-phenyl)-pyridine (0.059 g, 10%).

reactant | 1-{2-[2-(4-bromo-phenyl)-5-methyl-oxazol-4-yl]-ethyl }-2-methylpiperidine | 1.99 mmol, 0.724 g | BrC1=CC=C(C=C1)C=1OC(=C(N1)CCN1C(CCCC1)C)C | C18H23BrN2O
reactant | 4-pyridylboronic acid | 2.99 mmol, 0.367 g | N1=CC=C(C=C1)B(O)O | C5H6BNO2
reactant | Na2CO3 | 2N, 5 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | 1,4-dioxane | 1.5 mL | O1CCOCC1 | C4H8O2
product | 4-(4-{5-methyl-4-[2-(2-methyl-piperidin-1 -yl)-ethyl]-oxazol-2-yl}-phenyl)-pyridine | 0.059 g, 10% | CC1=C(N=C(O1)C1=CC=C(C=C1)C1=CC=NC=C1)CCN1C(CCCC1)C | C23H27N3O
